US07022711B2
6-(3,5-Dimethoxy-phenyl)-2-(2,6-dimethyl-pyridin-4-ylamino)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one
To a −78° C. solution of 3.9 g (32.1 mmol) of 4-amino-2,6-dimethylpyridine in 120 mL of THF was added dropwise 17.5 mL (30.5 mmol) of 1.6 M n-butyllithium in hexanes. The reaction solution was stirred for 15 minutes at which time 3.0 g (8.0 mmol) of the product of Example 7, 6-(3,5-dimethoxy-phenyl)-8-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one, was added in small portions as a solid. The reaction mixture was allowed to warm slowly to −10° C. then remain at −10° C. overnight. The reaction. mixture was poured into ethyl acetate/water/5 mL 6N HCl. The mixture was shaken and separated. The organic phase was washed with a saturated solution of sodium bicarbonate, twice with water, and brine, then dried over magnesium sulfate, filtered, and concentrated to a solid residue. The residue was triturated under ethyl acetate/dichloromethane. The resulting material was further purified by column chromatography eluting with 5:50:50 methanol/ethyl acetate/dichloromethane to give an orange crystalline material. This material was dissolved in 150 mL of hot 1:9 methanol/chloroform and filtered. The addition of 60 mL of hexane results in the precipitation of 0.99 g (28%) of the title compound as a pale yellow solid.

reactant | 4-amino-2,6-dimethylpyridine | 32.1 mmol, 3.9 g | NC1=CC(=NC(=C1)C)C | C7H10N2
reactant | n-butyllithium | 30.5 mmol, 1.6 M, 17.5 mL | C(CCC)[Li]
reactant | 6-(3,5-dimethoxy-phenyl)-8-ethyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)CC | C18H19N3O4S
reactant | ethyl acetate water | 6N, 5 mL | C(C)(=O)OCC.O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | 6-(3,5-Dimethoxy-phenyl)-2-(2,6-dimethyl-pyridin-4-ylamino)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.99 g, 28% | COC=1C=C(C=C(C1)OC)C1=CC2=C(N=C(N=C2)NC2=CC(=NC(=C2)C)C)N(C1=O)CC | C24H25N5O3
